US04092150
4-Chloro-6-cyclopropylamino-2-(1-methylpropylamino)-5-pyrimidinecarbonitrile was prepared by the method of Example XVII, substituting 4,6-dichloro-2-(1-methylpropylamino)-5-pyrimidinecarbonitrile and cyclopropylamine for 4,6-dichloro-2-ethylamino-5-pyrimidinecarbonitrile and isopropylamine. The reaction product was recrystallized from methylcyclohexane to give 4-chloro-6-cyclopropylamino-2-(1-methylpropylamino)-5-pyrimidinecarbonitrile; mp, 112°-114°.

reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | 4,6-dichloro-2-ethylamino-5-pyrimidinecarbonitrile | ClC1=NC(=NC(=C1C#N)Cl)NCC | C7H6Cl2N4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 4-chloro-6-cyclopropylamino-2-(1-methylpropylamino)-5-pyrimidinecarbonitrile | ClC1=NC(=NC(=C1C#N)NC1CC1)NC(CC)C | C12H16ClN5
